US05866611
The procedure described in Example 88 was repeated using 3-allyl-4-(3-[N-isopropylamino]propoxy)butyrophenone and ethoxyamine hydrochloride to give 3-allyl-4-(3-[N-isopropylamino)propoxy)-butyrophenone O-ethyloxime as a solid, m.p. 124°-126° C.

reactant | 3-allyl-4-(3-[N-isopropylamino]propoxy)butyrophenone | C(C=C)C(CC(=O)C1=CC=CC=C1)COCCCNC(C)C | C19H29NO2
reactant | ethoxyamine hydrochloride | Cl.C(C)ON
product | 3-allyl-4-(3-[N-isopropylamino)propoxy)-butyrophenone O-ethyloxime | C(C)ON=C(CC(COCCCNC(C)C)CC=C)C1=CC=CC=C1 | C21H34N2O2
